US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (5.97 g) and 4-cyanothioanisole (5.97 g) were reacted, to give 3-(4-methylthiophenyl)isoquinolin-1-one (5.00 g).

reactant | N-methyl-2-methylbenzamide | 5.97 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 4-cyanothioanisole | 5.97 g | C(#N)C1=CC=C(C=C1)SC | C8H7NS
product | 3-(4-methylthiophenyl)isoquinolin-1-one | 5.00 g | CSC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C16H13NOS
